US07569600B2
A solution of 4-[(5-cyclohex-1-enyl-2-methoxycarbonyl-thiophen-3-yl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (2.3 g, 4.22 mmol) in dichloromethane (15 mL) and trifluoroacetic acid (15 mL) was stirred at room temperature under N2 atmosphere for 4 h. Solvents were removed under reduced pressure and the residue was partitioned between ethyl acetate and saturated NaHCO3. The organic layer was separated, dried (Na2SO4) and concentrated. The residue was purified by silica gel column chromatography using methanol, chloroform and triethyl amine (10:89:1) as eluent to obtain 5-cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-piperidin-4-yl-amino]-thiophene-2-carboxylic acid methyl ester (1.5 g, 80%) as a solid.

reactant | 4-[(5-cyclohex-1-enyl-2-methoxycarbonyl-thiophen-3-yl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 4.22 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(=O)[C@@H]1CC[C@H](CC1)C)C1=C(SC(=C1)C1=CCCCC1)C(=O)OC | C30H44N2O5S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-piperidin-4-yl-amino]-thiophene-2-carboxylic acid methyl ester | 1.5 g, 80% | COC(=O)C=1SC(=CC1N(C1CCNCC1)C(=O)[C@@H]1CC[C@H](CC1)C)C1=CCCCC1 | C25H36N2O3S
